US04421922
21.24 g of the 4-benzyloxyacetoacetic ethyl ester dissolved in acetic ester (100 ml) was inserted into a 200 ml steel autoclave provided with a magnetic stirrer and was hydrogenolized in the presence of 1.05 g Pd 5 percent on coal with hydrogen with a pressure of 5 atm. After the reaction was completed, which amounted to a period of about 2 hours, and after a 2 hour post-reaction time, the catalyst was filtered out. The filtrate was evaporated on a vacuum rotation evaporator at 35° C. The residue was dried in the high vacuum. 13.4 g of 4-hydroxyacetoacetic ethyl ester in the form of a slightly yellowish oil resulted.

reactant | 4-benzyloxyacetoacetic ethyl ester | 21.24 g | C(C)OC(CC(=O)COCC1=CC=CC=C1)=O | C13H16O4
reactant | hydrogen | [H][H] | H2
catalyst | Pd | 1.05 g | [Pd] | Pd
product | 4-hydroxyacetoacetic ethyl ester | 13.4 g | C(C)OC(CC(=O)CO)=O | C6H10O4
